US06521649B1
Production of isopropyl 4-methyl-1,2,3-thiadiazole-5-carboxylate (Compound No. 18)
To 1.0 g (6.9 mmoles) of 4-methyl-1,2,3-thiadiazole-5-carboxylic acid were added 40 ml of thionyl chloride and 2 drops of dimethylformamide at room temperature, and the resulting mixture was refluxed with heating or 3 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and the excess thionyl chloride was distilled off and 7.0 ml of tetrahydrofuran was added to the residue. Then, 2.1 g (21 mmoles) of triethylamine and 0.83 g (13.8 mmoles) of isopropanol were added and the resulting mixture was stirred at room temperature for 18 hours, after which a saturated aqueous sodium chloride solution was added. The desired compound was extracted with ethyl acetate and the organic layer was washed successively with diluted hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=10:1) to obtain 1.0 g of the desired compound.

reactant | 4-methyl-1,2,3-thiadiazole-5-carboxylic acid | 6.9 mmoles, 1.0 g | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | triethylamine | 21 mmoles, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | isopropanol | 13.8 mmoles, 0.83 g | C(C)(C)O | C3H8O
reactant | sodium chloride | [Cl-].[Na+]
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | isopropyl 4-methyl-1,2,3-thiadiazole-5-carboxylate | 1.0 g, Yield: 79% | CC=1N=NSC1C(=O)OC(C)C | C7H10N2O2S
